US04024286
Preparation of L-methionyl-L-valine
The title compound was prepared according to the procedure of Example 1A and B above by replacing DL-methionine and glycine respectively with L-methionine and L-valine (Aldrich Chemical Co., Beil 4,427). The title compound had a melting point of 227° to 229° C (d). The title compound was found to be water soluble. The product thus obtained was subjected to amino acid analysis and found to contain 49.44 mole percent valine and 50.56 mole percent methionine.

reactant | DL-methionine | NC(CCSC)C(=O)O | C5H11NO2S
reactant | glycine | NCC(=O)O | C2H5NO2
reactant | L-methionine | N[C@@H](CCSC)C(=O)O | C5H11NO2S
reactant | L-valine | N[C@@H](C(C)C)C(=O)O | C5H11NO2
solvent | water | O | H2O
product | L-methionyl-L-valine | N[C@@H](CCSC)C(=O)N[C@@H](C(C)C)C(=O)O | C10H20N2O3S
